US07235572B2
In analogy to the procedure described in example 1 b], [rac]-6-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-1H-indole was reacted with bromo-acetic acid tert-butyl ester in the presence of sodium hydride in DMF to yield [rac]-(6-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester as colorless gum.

reactant | [rac]-6-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-1H-indole | CC=1N=C(SC1C(C)OC1=CC=C2C=CNC2=C1)C1=CC=C(C=C1)C(F)(F)F | C21H17F3N2OS
reactant | bromo-acetic acid tert-butyl ester | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | [rac]-(6-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OC(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C27H27F3N2O3S
